US06495546B1
To a mixture of 8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid (0.30 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.15 g) and 1-hydroxybenzotriazole (0.11 g) in dichloromethane (6 ml) was added a solution of methylamine in tetrahydrofuran (2.0M, 0.40 ml). The reaction mixture was stirred at room temperature overnight, and partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (100:1 to 10:1) to afford N-[(2S)-2-hydroxy-3-phenoxypropyl]-N-tert-butoxycarbonyl-(3-methylcarbamoyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (0.13 g).

reactant | 8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid | 0.30 g | C(C)(C)(C)OC(=O)N(C[C@@H](COC1=CC=CC=C1)O)C1CCCC2=C(C1)C=C(C=C2)C(=O)O | C26H33NO6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.15 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.11 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methylamine | CN | CH5N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2.0M, 0.40 ml | O1CCCC1 | C4H8O
product | N-[(2S)-2-hydroxy-3-phenoxypropyl]-N-tert-butoxycarbonyl-(3-methylcarbamoyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 0.13 g | O[C@@H](CN(C(=O)OC(C)(C)C)C1CC2=C(CCC1)C=CC(=C2)C(NC)=O)COC2=CC=CC=C2 | C27H36N2O5
